US08735362B2
To a solution of 4-(hydroxyimino-methyl)-2-methyl-benzoic acid tert-butyl ester (1.47 g) in N, N-dimethylformamide (13 ml) was added N-chlorosuccinimide (“NCS”) (832 mg). The reaction mixture was stirred at ambient temperature for 2 hours. More N-chlorosuccinimide (“NCS”) (850 mg) was added and the reaction mixture was stirred at ambient temperature for 1 hour. A solution of 2,6-Dichloro-4-(1-trifluoromethyl-vinyl)-benzonitrile (1.37 g) and triethylamine (0.72 ml) in N,N-dimethylformamide (13 ml) was added dropwise to the reaction mixture. The reaction mixture was stirred at ambient temperature for 17 hours. Water and ethyl acetate were added and the phases were separated. The organic layer was washed with water, dried over sodium sulfate and concentrated. The residue was purified by chromatography on silica gel to give 4-[5-(3,5-Dichloro-4-cyano-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid tert-butyl ester (0.902 g). 19F-NMR (CDCl3, 75 MHz): −78.93 ppm.

reactant | 4-(hydroxyimino-methyl)-2-methyl-benzoic acid tert-butyl ester | 1.47 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C=NO)C)=O | C13H17NO3
reactant | N-chlorosuccinimide | 832 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 850 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2,6-Dichloro-4-(1-trifluoromethyl-vinyl)-benzonitrile | 1.37 g | ClC1=C(C#N)C(=CC(=C1)C(=C)C(F)(F)F)Cl | C10H4Cl2F3N
reactant | triethylamine | 0.72 ml | C(C)N(CC)CC | C6H15N
solvent | N, N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-[5-(3,5-Dichloro-4-cyano-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid tert-butyl ester | 0.902 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)C#N)Cl)C)=O | C23H19Cl2F3N2O3
